US07449466B2
Production Example 74 was repeated except that methoxymethyltriphenylphosphonium chloride and 1-(2,5-difluoro-4-methoxyphenyl)piperidin-4-one were replaced with phenethyltri-phenylphosphonium bromide (133 mg) and 1-(2,5-difluoro-4-methoxyphenyl)-4-piperidinecarbaldehyde (35 mg), respectively, and the resulting crude product was purified on TLC (developer, hexane: ethyl acetate=10:1) to provide (Z)-1-(2,5-difluoro-4-methoxyphenyl)-4-(3-phenyl-1-propen-1-yl)piperidine (37 mg).

reactant | methoxymethyltriphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(2,5-difluoro-4-methoxyphenyl)piperidin-4-one | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)=O | C12H13F2NO2
reactant | phenethyltri-phenylphosphonium bromide | 133 mg | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-4-piperidinecarbaldehyde | 35 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)C=O | C13H15F2NO2
product | (Z)-1-(2,5-difluoro-4-methoxyphenyl)-4-(3-phenyl-1-propen-1-yl)piperidine | 37 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)\C=C/CC1=CC=CC=C1 | C21H23F2NO
